US07968556B2
SYNTHESIS OF 2-(3-HYDROXYPHENYL)-8-OXO-9-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Methyl 2-(3-(tert-butyldiphenylsilyloxy)phenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate. Methyl 5-amino-2-(3-(tert-butyldiphenyl-silyloxy)phenyl)-6-((tetrahydro-2H-pyran-4-yl)methylamino)pyrimidine-4-carboxylate (0.276 g, 0.536 mmol) and 1,1′-1,1′-carbonyldiimidazole (0.522 g, 3.22 mmol) in dichloromethane (15 mL) were reacted according to General Procedure F and purified via biotage chromatography (0-75% EtOAc in hexanes) to afford the title compound (0.202 g, 70%). 1H NMR (400 MHz, DMSO-d6) δ 11.79 (s, 1H), 7.98 (s, 1H), 7.96 (s, 1H), 7.40 (t, J=8.39, 1H), 7.00 (d, J=7.99, 1H), 3.94 (s, 3H), 3.8 (m, 4H), 3.24 (t, J=10.79, 3H), 2.15 (m, 1H), 1.57 (d, J=12.39, 2H), 1.31 (m, 5H), 1.11 (d, J=7.59, 18H).

reactant | Methyl 2-(3-(tert-butyldiphenylsilyloxy)phenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)C1=NC(=C2NC(N(C2=N1)CC1CCOCC1)=O)C(=O)OC | C35H38N4O5Si
reactant | Methyl 5-amino-2-(3-(tert-butyldiphenyl-silyloxy)phenyl)-6-((tetrahydro-2H-pyran-4-yl)methylamino)pyrimidine-4-carboxylate | 0.536 mmol, 0.276 g | NC=1C(=NC(=NC1NCC1CCOCC1)C1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)OC | C34H40N4O4Si
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(3-HYDROXYPHENYL)-8-OXO-9-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.202 g, 70% | OC=1C=C(C=CC1)C1=NC(=C2NC(N(C2=N1)CC1CCOCC1)=O)C(=O)N | C18H19N5O4
